US06608078B2
A mixture of 1-benzyl-4-hydroxy-3,3,5-trimethylpiperidine (1.9 g, 8.15 mmole) and 20% palladium hydroxide (0.2 g) in methanol (20 ml) was stirred in hydrogen atmosphere (1 atm.) for 48 hr at 35° C. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 4-hydroxy-3,3,5-trimethylpiperidine as oil. Yield 1.0 g (87%), C9H17NO, m/z 144 (M+1).

reactant | 1-benzyl-4-hydroxy-3,3,5-trimethylpiperidine | 8.15 mmole, 1.9 g | C(C1=CC=CC=C1)N1CC(C(C(C1)C)O)(C)C | C15H23NO
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.2 g | [OH-].[Pd+2].[OH-]
product | 4-hydroxy-3,3,5-trimethylpiperidine | OC1C(CNCC1C)(C)C | C8H17NO
